US08871767B2
N-(5-(6-(4-(N′-hydroxycarbamimidoyl)-2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide
A 500-mL flask is charged with N-(5-(6-(4-cyano-2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide (7.496 g, 0.0157 mol), hydroxylamine hydrochloride (6.55 g, 0.0942 mol), Et3N (15.32 mL, 0.1099 mol), ethanol (82.5 mL) and the resulting mixture is stirred for 2 hours at 80° C. The mixture is concentrated onto celite and purified by silica gel chromatography (eluted by 0 to 100% of 10:1 EtOAc:MeOH in CH2Cl2). The isolated solid material (over 20 g) contains triethylamine and hydroxylamine salts, and the salts stay even after attempted recrystallization with isopropanol. This solid product is then added to a stirred mixture of saturated aqueous NaHCO3 and EtOAc. Solid suspension is collected by filtration. The liquid portion is back extracted with EtOAc and the organic layers are combined, dried with Na2SO4, concentrated to afford additional solid product. The combined solid product is dried on a lyophilizer overnight, recrystallized from hot Isopropanol to afford the desired title product (6.56 g). LCMS (m/z)=511.6 [M+H]+, tR=2.49 min.

reactant | N-(5-(6-(4-cyano-2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 0.0157 mol, 7.496 g | C(#N)C1=CC(=C(C=C1)C=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C)C(F)(F)F | C26H22F3N5O
reactant | hydroxylamine hydrochloride | 0.0942 mol, 6.55 g | Cl.NO
reactant | Et3N | 0.1099 mol, 15.32 mL | CCN(CC)CC | C6H15N
solvent | ethanol | 82.5 mL | C(C)O | C2H6O
product | N-(5-(6-(4-(N′-hydroxycarbamimidoyl)-2-(trifluoromethyl)phenyl)imidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 6.56 g | ON=C(N)C1=CC(=C(C=C1)C=1C=CC=2N(N1)C=C(N2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C)C(F)(F)F | C26H25F3N6O2
